US07915300B2
Ethyl 4-propionylbenzoate (2.0 mmol), pyrrolidinone hydrotribromide (2.1 mmol) and 2-pyrrolidinone (2.2 mmol) were heated in THF (20 mL) at 50 C for 2.5 h. The mixture was cooled, filtered, concentrated under vacuum and the residual oil partitioned between H2O and MTBE. The aqueous layer was extracted with MTBE, and the combined organic layers were washed with saturated aqueous sodium metabisulfite solution, H2O, brine, dried over MgSO4 and the solvent removed under vacuum. The residue was purified by flash column chromatography (9:1 IHexane: MTBE) to afford ethyl-4(2′-bromopropionyl)benzoate as a clear oil.

reactant | Ethyl 4-propionylbenzoate | 2.0 mmol | C(CC)(=O)C1=CC=C(C(=O)OCC)C=C1 | C12H14O3
reactant | pyrrolidinone hydrotribromide | 2.1 mmol | C1CC(=O)NC1.Br[Br-]Br
reactant | 2-pyrrolidinone | 2.2 mmol | N1C(CCC1)=O | C4H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl-4(2′-bromopropionyl)benzoate | C(C)OC(C1=CC=C(C=C1)C(C(C)Br)=O)=O | C12H13BrO3
